US04977162
To a solution of 41.6 mmol of lithium diisopropyl amide in tetrahydrofuran (formed by adding n-butyl lithium in hexanes to diisopropyl amine in THF) is added 2.4 g (20.8 mmole) of methylacetoacetate over 10 minutes at O° C. After stirring for 30 minutes, 2.0 g of 7-methyl-1,3-benzodioxane-4-one is added and the mixture stirred for 30 minutes. 6 ml of acetic acid is added and the mixture diluted with ethyl acetate and filtered The ethyl acetate solution is washed with diluted hydrochloric acid, water and dried over sodium sulfate. The ethyl acetate is removed in vacuo to give methyl 5-(2-hydroxy-2-methylphenyl)-3,5-dioxopentanoate.

reactant | lithium diisopropyl amide | 41.6 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | methylacetoacetate | 20.8 mmole, 2.4 g | COC(CC(=O)C)=O | C5H8O3
reactant | 7-methyl-1,3-benzodioxane-4-one | 2.0 g | CC=1C=CC2=C(OCOC2=O)C1 | C9H8O3
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-(2-hydroxy-2-methylphenyl)-3,5-dioxopentanoate | OC1(C(C=CC=C1)C(CC(CC(=O)OC)=O)=O)C | C13H16O5
